US06605618B2
1-Hexyl-3-[4-[4-(4-[2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-phenyl}-urea
N-[4-({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl)carbonyl)phenyl]-N-hexylurea (0.394 g, 0.846 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.308 g, 0.761 mmol) according to Procedure G to give the title compound (0.232 g, 0.26 mmol).

reactant | N-[4-({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl)carbonyl)phenyl]-N-hexylurea | 0.846 mmol, 0.394 g | NCCC1=CC=C(NC2CCN(CC2)C(=O)C2=CC=C(C=C2)N(C(=O)N)CCCCCC)C=C1 | C27H39N5O2
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.761 mmol, 0.308 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 1-Hexyl-3-[4-[4-(4-[2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-phenyl}-urea | 0.26 mmol, 0.232 g | C(CCCCC)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C36H49N5O5
